US05248693
0.1 g of bis(triphenylphosphine)palladium(II) chloride, 0.05 g of copper iodide and 18.5 ml of triethylamine are added to a solution of 5 g of 2-iodobenzenesulfonamide in 70 ml of N,N-dimethylformamide. At room temperature, argon and 1-butyne are slowly introduced. After 18 hours the thin-layer chromatogram no longer shows any 2-iodobenzenesulfonamide. The dimethylformamide is evaporated off at 0.1 torr and 40°, and the residue is chromatographed on 300 g of silica gel (Merck ST 60, 40-63 μm). Methylene chloride is used as eluant. In that manner, after concentration of the product-containing fractions at 15 torr and 40°, white pulverulent 2-(but-1-yn-1-yl)-benzenesulfonamide is obtained: 1H-NMR (300 MHz, CDCl3): 8.0 (d, d, 1H); 7.35 (d, d, 1H); 7.29 (d, t, 1H); 7.23 (d, t, 1H); 5.13 (s, 2H); 2.32 (q, 2H); 1.18 (t, 3H).

reactant | triethylamine | 18.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-iodobenzenesulfonamide | 5 g | IC1=C(C=CC=C1)S(=O)(=O)N | C6H6INO2S
reactant | 1-butyne | C#CCC | C4H6
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.05 g | [Cu](I)I
product | 2-(but-1-yn-1-yl)-benzenesulfonamide | C(#CCC)C1=C(C=CC=C1)S(=O)(=O)N | C10H11NO2S
